US07968563B2
mCPBA (2.2 g of 60% pure material, 7.7 mmol) was added in portions over a period of five minutes to a stirred solution of 2-methyl-1-{2-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-1H-imidazo[4,5-c]quinolin-1-yl}propan-2-ol (2.5 g, 7.0 mmol) in chloroform (47 mL), and the reaction was stirred at room temperature for 20 minutes. The reaction mixture was partitioned between dichloromethane (200 mL) and saturated aqueous sodium carbonate (100 mL). The organic layer was separated and washed with saturated aqueous sodium carbonate (100 mL). The combined aqueous fractions were extracted with dichloromethane (50 mL). The combined organic fractions were washed with brine (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 2-methyl-1-{2-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl}propan-2-ol as a tan solid.

reactant | mCPBA | 7.7 mmol, 2.2 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 2-methyl-1-{2-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-1H-imidazo[4,5-c]quinolin-1-yl}propan-2-ol | 7.0 mmol, 2.5 g | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)CCC2(OCCO2)C)(C)O | C20H25N3O3
solvent | chloroform | 47 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-1-{2-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl}propan-2-ol | CC(CN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])CCC2(OCCO2)C)(C)O | C20H25N3O4
